US04801705
(A) 3,4-Dimethoxy-6-nitrobenzoic acid
To a suspension of 80 g (0.33 mol) of 3,4-dimethoxy-6-nitrobenzoic acid, methyl ester in 1700 ml of methanol was added 500 ml of 2N sodium hydroxide, and the mixture was warmed to 50° C. for 45 minutes. After 30 minutes, a clear solution was obtained. The methanol was evaporated in vacuo and the aqueous solution was acidified with 3N hydrochloric acid to pH 1. The resulting crystals were filtered off by suction, washed with water and dried in vacuo; yield: 72.5 g; melting point 194.9° C.

reactant | 3,4-dimethoxy-6-nitrobenzoic acid, methyl ester | 0.33 mol, 80 g | COC=1C=C(C(=O)OC)C(=CC1OC)[N+](=O)[O-] | C10H11NO6
reactant | sodium hydroxide | 2N, 500 ml | [OH-].[Na+]
solvent | methanol | 1700 ml | CO | CH4O
product | 3,4-Dimethoxy-6-nitrobenzoic acid | COC=1C=C(C(=O)O)C(=CC1OC)[N+](=O)[O-] | C9H9NO6
